US05554606
2,5-Dichloro-3,4-dihydroxybenzoic acid (10.7 g, see J. Antibiotics, 1987, 40, 22) and K2CO3 (33.1 g) were suspended in DMF (150 ml), and treated with allyl bromide (14.7 ml). After stirring overnight, the mixture was filtered, diluted with ethyl acetate, washed with sodium bicarbonate, dried (MgSO4), filtered and evaporated to give allyl 2,5-dichloro-3,4-diallyloxybenzoate (14.7 g): NMR (CDCl3) 4.55-4.65 (m, 4H); 4.82 (m, 2H); 5.24-5.50 (m, 6H); 5.94-6.22 (m, 3H); 7.70 (s, 1H).

reactant | 2,5-Dichloro-3,4-dihydroxybenzoic acid | 10.7 g | ClC1=C(C(=O)O)C=C(C(=C1O)O)Cl | C7H4Cl2O4
reactant | K2CO3 | 33.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 14.7 ml | C(C=C)Br | C3H5Br
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | allyl 2,5-dichloro-3,4-diallyloxybenzoate | 14.7 g | ClC1=C(C(=O)OCC=C)C=C(C(=C1OCC=C)OCC=C)Cl | C16H16Cl2O4
